US08492378B2
1-(4-methoxyphenyl)-6-[5-[[4-methoxy-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole
In the same manner as in Example 1 and using 5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 4-methoxy-3-(trifluoromethyl)benzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 34%) was obtained as colorless crystals.

reactant | 5-[1-(4-methoxyphenyl)-1H-benzimidazol-6-yl]-1,3,4-oxadiazole-2-thiol | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C2=NN=C(O2)S | C16H12N4O2S
reactant | 4-methoxy-3-(trifluoromethyl)benzyl bromide | COC1=C(C=C(CBr)C=C1)C(F)(F)F | C9H8BrF3O
product | 1-(4-methoxyphenyl)-6-[5-[[4-methoxy-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazol-2-yl]-1H-benzimidazole | yield 34% | COC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C=2OC(=NN2)SCC2=CC(=C(C=C2)OC)C(F)(F)F | C25H19F3N4O3S
